datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26])([H:16])([H:17])[H:18]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[C:8]([C:7]([H:16])([H:17])[H:18])([C:9]([H:19])([H:20])[H:21])[c:10]1[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]1[H:26],41.5471
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:24])([H:25])[H:26])=[C:16]([C:17](=[C:18]([H:28])[H:29])[H:27])[C:19](=[C:20]([H:31])[H:32])[H:30])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:21])[H:22])[H:23])([C:15]([H:24])([H:25])[H:26])[C:16]([C:17](=[C:18]([H:28])[H:29])[H:27])[C:19](=[C:20]([H:31])[H:32])[H:30])[H:5],26.2337
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])([C:15]([H:24])([H:25])[H:26])[O:16][O:17])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:17][O:16][C:13]([C:12]([H:18])([H:19])[H:20])([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26],62.3416
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[S:8])([H:9])[H:10]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:9])[H:4].[C:7](=[S:8])[H:10],18.0749
[C:4]([c:5]1[c:6]([H:13])[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]1[H:17])([H:11])[H:12].[S:0]([S:1][H:3])[H:2]>>[H:2][C:4]([c:5]1[c:6]([H:13])[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]1[H:17])([H:11])[H:12].[S:0][S:1][H:3],-5.8576
[C:13]([C:14](=[S:15])[H:18])([H:16])[H:17].[S:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][C:13]([C:14](=[S:15])[H:18])([H:16])[H:17].[S:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],28.0328
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:14]([C:15]([H:18])([H:19])[H:20])([H:16])[H:17])[H:7])[H:6],17.6146
[C:0]1([H:7])[C:1]2([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]([H:12])[C:6]12[H:13]>>[C:0]12([H:7])[C:1]3([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])[C:5]1([H:12])[C:6]23[H:13],71.128
[C:0]1([H:6])([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[H:17].[C:18]([H:19])([H:20])[H:21]>>[C:0]1([H:7])[C:1]([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[H:17].[H:6][C:18]([H:19])([H:20])[H:21],48.6749824
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[O:16][H:17]>>[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:9].[H:8][O:16][H:17],14.2593
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[S:12]([C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])[H:21])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13]([S:12][H:20])([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])[H:21],37.656
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[H:6]>>[C:0]([H:2])([H:3])[H:4].[S:1]([H:5])[H:6],16.3176
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:24])([H:25])[H:26])[C:19](=[S:20])[H:27])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17]([C:16]([H:21])([H:22])[H:23])([C:18]([H:24])([H:25])[H:26])[C:19](=[S:20])[H:27],12.9704
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([C:23](=[C:24]([H:28])[H:29])[H:27])([H:25])[H:26]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])[C:22]([C:23](=[C:24]([H:28])[H:29])[H:27])([H:25])[H:26])([H:10])([H:11])[H:12],54.3083
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[C:14]([C:15]([S:16][H:21])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14](=[C:13]([H:17])[H:18])[H:19])([S:16][H:21])[H:20],35.1456
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26])[H:8],-17.3636
